US07851473B2
(2) 2-(3-Methoxyphenyl)-2-oxoethyl thiocyanate
A solution of 2-bromo-1-(3-methoxyphenyl)ethanone (7.63 g, 33.3 mmol) and potassium thiocyanate (3.24 g, 33.3 mmol) in ethanol (70 ml) was stirred at 80° C. for 2 hours. After cooling to room temperature, water (70 ml) was added to the reaction mixture, and the mixture was extracted with chloroform. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to give 6.71 g (97.2%) of the desired product as a solid.

reactant | 2-bromo-1-(3-methoxyphenyl)ethanone | 33.3 mmol, 7.63 g | BrCC(=O)C1=CC(=CC=C1)OC | C9H9BrO2
reactant | potassium thiocyanate | 33.3 mmol, 3.24 g | [S-]C#N.[K+]
reactant | water | 70 ml | O | H2O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-(3-Methoxyphenyl)-2-oxoethyl thiocyanate | 6.71 g, 97.2% | COC=1C=C(C=CC1)C(CSC#N)=O | C10H9NO2S
